US04382951
(c) N-(6,6-dimethylhept-2-en-4-ynyl)-methylamine
24.3 g of 1-bromo-6,6-dimethylhept-2-en-4-yne in 750 ml of ethanol are added at -50° to 245 ml of a 33% ethanolic solution of methylamine and the mixture stirred in a closed vessel at 55° for 3 hours. The resulting mixture is concentrated in a rotary evaporator and the residue taken up with chloroform and washed with 1 N NaOH and saturated NaCl. After drying over MgSO4 the crude product is purified by chromatography on kieselgel (eluant toluene/ethylacetate; 4/1). A colourless oil is obtained (trans- and cis compound in ratio 3:1).

reactant | 1-bromo-6,6-dimethylhept-2-en-4-yne | 24.3 g | BrCC=CC#CC(C)(C)C | C9H13Br
reactant | methylamine | CN | CH5N
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | N-(6,6-dimethylhept-2-en-4-ynyl)-methylamine | CC(C#CC=CCNC)(C)C | C10H17N
